US05212187
N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.7 g (2.1 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.7 g (2.8 mmol) of 3-[3-(piperidinomethyl)phenoxy]propaneamine as starting materials. Working up by chromatography (eluant: methylene chloride/methanol 95+5) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+FAB method): m/z (rel. int.[%])=606 ([M+H]+, 4), 230 (100); IR (KBr): 1643 cm-1 (C≡O).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine | 2.1 mmol, 0.7 g | ClC1=CC=C(C=C1)C(CCN(CCCCN)C)C1=NC=CC=C1 | C19H26ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propaneamine | 2.8 mmol, 0.7 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCCNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=NC=CC=C1 | C35H48ClN5O2
